US04339449
To a solution of benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]oct-3-ene-2-carboxylate (3.0 g.) in tetrahydrofuran (22 ml.) was added alminum amalgam at 4° C., which was prepared by alminium power (1.8 g.) and 0.5% mercuric chloride (4 ml.), and water (0.75 ml.) was added dropwise thereto. After the mixture was stirred at 10° C. for 75 minutes under nitrogen atmosphere, the reaction mixture was diluted with ethyl acetate (50 ml.) and filtered through a pad of Celite. The filter cake was washed with ethyl acetate, and the filtrate and washings were combined, washed twice with an aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to leave an oil (2.7 g.). Chromatography on silica gel (15 g.) with a mixed solvent of methylene chloride and ethyl acetate (5:1 by volume) as an eluent gave an amorphous solid (2.64 g.) of benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate.

reactant | benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]oct-3-ene-2-carboxylate | 3.0 g | O(C1=CC=CC=C1)CC(=O)NC1C2SC=NC(N2C1=O)C(=O)OCC1=CC=CC=C1 | C21H19N3O5S
reactant | water | 0.75 ml | O | H2O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 2.64 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCNC(N2C1=O)C(=O)OCC1=CC=CC=C1 | C21H21N3O5S
